US07732613B2
G) N-(3-Fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
A mixture of N-(4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide trifluoroacetic acid salt (40 mg, 0.056 mmol) and HBr in HOAc (3 mL of 33% solution) was allowed to stay at rt for 70 minutes. Ether (25 mL) was added to the reaction mixture, stirred for 20 minutes, and the solid was filtered and dried to obtain the product (17 mg, 59%) as a light brown solid. 1H NMR (DMF-d7) δ 12.35 (s, 1H), 8.94 (d, 1H, J=6.6 Hz), 8.70 (d, 1H, J=7.7 Hz), 8.23-7.50 (m, 12H), 7.12 (d, 1H, J=6.6 Hz), 6.84 (m, 1H), 4.17 (s, 3H); MS(ESI+) m/z 516.2 (M+H)+.

reactant | N-(4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide trifluoroacetic acid salt | 0.056 mmol, 40 mg | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O)F)OC
reactant | HBr | Br | BrH
reactant | Ether | 25 mL | CCOCC | C4H10O
solvent | HOAc | 3 mL | CC(=O)O | C2H4O2
product | N-(3-Fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 17 mg, 59% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O | C28H19F2N3O5
